US06432947B1
To 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid, ethyl ester (4.51 g, 14.4 mmol) dissolved in THF (250 mL) was added LiOH (0.91 g, 21.7 mmol) and water (30 mL). After stirring for 18 hours, most of the solvent was removed in vacuo and 1 N HCl (21.7 mL, 21.7 mmol) was added. The solid that formed was suction filtered and collected on paper to give 3.17 g of 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid (a compound of formula (Yc2)).

reactant | 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid, ethyl ester | 14.4 mmol, 4.51 g | C(#N)CCN(CC(=O)OCC)C1=NC(=NC(=C1)C)N1C=NC=C1 | C15H18N6O2
reactant | LiOH | 21.7 mmol, 0.91 g | [Li+].[OH-]
reactant | water | 30 mL | O | H2O
reactant | HCl | 21.7 mmol, 1 N, 21.7 mL | Cl | ClH
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid | 3.17 g | C(#N)CCN(CC(=O)O)C1=NC(=NC(=C1)C)N1C=NC=C1 | C13H14N6O2
